2180-12-05 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Propofol stopped to see if patient would wake up
   Cardiac enzymes negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-5**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (57 - 70) bpm
   BP: 104/62(72) {86/33(47) - 130/106(109)} mmHg
   RR: 31 (13 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,003 mL
                                                                    840 mL
   PO:
             TF:
   IVF:
                                                                    753 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    410 mL
   Urine:
                                                                    880 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,123 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 337 (337 - 456) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 68
   PIP: 18 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: 7.41/38/91.[**Numeric Identifier 96**]/23/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 153
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   310 K/uL
   9.6 g/dL
   100 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   42 mg/dL
   107 mEq/L
   139 mEq/L
   28.9 %
   10.6 K/uL
        [image002.jpg]
                            [**2180-12-5**]  02:26 AM
                            [**2180-12-5**]  04:28 AM
   WBC
   10.6
   Hct
   28.9
   Plt
   310
   Cr
   1.1
   TropT
   0.08
   TCO2
   25
   Glucose
   100
   Other labs: PT / PTT / INR:18.6/33.6/1.7, CK / CKMB /
   Troponin-T:72//0.08, ALT / AST:231/81, Alk Phos / T Bili:274/0.8,
   LDH:350 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   79M found unresponsive, intubated for airway protection, found to be
   hypoglycemic with possible pneumonia
   PLAN:
   ====
   Respiratory failure: intubated for airway protection while
   unresponsive.  Change in mental status likely due to
   hypoglycemia/pneumonia. Curently on PSV
   - Will hold on respiratory abx coverage at this time as it appears that
   he was not having fevers, chills, or cough.
   - Wean Propfol for sedation
   - Will plan to extubate in the am
   Mental status: per report the patient hasn't been awake since the event
   and has currently received sedation.  Head CT negative at OSH.
   - Will hold sedation to see if patient responds
   Hypoglycemia: as per report from the patient's wife, he has not been
   eating well at the NH.  This in concordance with current lantus dosing
   may have caused his hypoglycemia.  Patient required D5NS gtt to
   maintain normal blood sugars and these are now normal off fluids.
   - continue to monitor.
   CV: Patient with recent hx of CABG/AVR.
   CAD: Enzymes negative.  Continue ASA, hold statin.
   PUMP: EF 30%, will hold antihypertensives at this time.  Exam/Imaging
   suggestive of CHF vs. pneumonia .  Normotensive off of propofol
   RHYTHM: admitted in nsr, although alternating between bigeminy and nsr
   UTI: patient with Cipro sensitive E.coli, although with intermedaiate
   sensitivity to Vanc.  Hx of VRE.
   - Continue on Cipro at this time and will discuss whether he needs
   treatment with Linezolid in am.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-12-4**] 10:48 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2180-12-05 11:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Propofol stopped to see if patient would wake up
   Cardiac enzymes negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-5**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (57 - 70) bpm
   BP: 104/62(72) {86/33(47) - 130/106(109)} mmHg
   RR: 31 (13 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,003 mL
                                                                    840 mL
   PO:
             TF:
   IVF:
                                                                    753 mL
                                                                    750 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    410 mL
   Urine:
                                                                    880 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,123 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 337 (337 - 456) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 68
   PIP: 18 cmH2O
   Plateau: 23 cmH2O
   SpO2: 93%
   ABG: 7.41/38/91.[**Numeric Identifier 96**]/23/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 153
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   310 K/uL
   9.6 g/dL
   100 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   42 mg/dL
   107 mEq/L
   139 mEq/L
   28.9 %
   10.6 K/uL
        [image002.jpg]
                            [**2180-12-5**]  02:26 AM
                            [**2180-12-5**]  04:28 AM
   WBC
   10.6
   Hct
   28.9
   Plt
   310
   Cr
   1.1
   TropT
   0.08
   TCO2
   25
   Glucose
   100
   Other labs: PT / PTT / INR:18.6/33.6/1.7, CK / CKMB /
   Troponin-T:72//0.08, ALT / AST:231/81, Alk Phos / T Bili:274/0.8,
   LDH:350 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   79M found unresponsive, intubated for airway protection, found to be
   hypoglycemic with possible pneumonia
   PLAN:
   ====
   Respiratory failure: intubated for airway protection while
   unresponsive.  Change in mental status likely due to
   hypoglycemia/pneumonia. Currently on PSV
   - Will empirically treat for HAP with Vanc/Zosyn/Cipro
   - Continue to hold propofol to see if mental status improves over the
   course of the day.
   Mental status: per report the patient hasn't been awake since the event
   and has currently received sedation.  Head CT negative at OSH.
   - Will hold sedation to see if patient responds, if not improving by
   the afternoon with rescan head
   - Toxic metabolic workup
   Hypoglycemia: as per report from the patient's wife, he has not been
   eating well at the NH.  This in concordance with current lantus dosing
   may have caused his hypoglycemia.  Patient required D5NS gtt to
   maintain normal blood sugars and these are now normal off fluids.
   - continue to monitor and give D5 prn
   CV: Patient with recent hx of CABG/AVR.
   CAD: Enzymes negative.  Continue ASA, hold statin.  Patient does not
   need anticoagulation
   PUMP: EF 30%, will hold antihypertensives at this time.  Exam/Imaging
   suggestive of CHF vs. pneumonia.  Will start low dose lasix gtt
   RHYTHM: admitted in nsr, although alternating between bigeminy and nsr
   UTI: patient with Cipro sensitive Enterococcus, although with
   intermedaiate sensitivity to Vanc.  Hx of VRE.
   - coverage for HAP should cover this organims
   - follow-up urine culture
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-12-4**] 10:48 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2180-12-06 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.failed SBT X5
   2. awake, responds to commands.
   3. received ativan and fentanyl overnight for sedation
   4. 2l negative on lasix gtt, hypotensive early am, given 500cc NS,
   pressure returned.
   5. started on vancomycin /Zosyn/[** 1686**] for HAP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-6**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-6**] 12:00 AM
   Ciprofloxacin - [**2180-12-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2180-12-5**] 03:51 PM
   Heparin Sodium (Prophylaxis) - [**2180-12-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-6**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 69 (66 - 76) bpm
   BP: 103/41(55) {84/32(47) - 124/57(68)} mmHg
   RR: 27 (24 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,669 mL
                                                                  1,106 mL
   PO:
             TF:
   IVF:
                                                                  1,579 mL
                                                                  1,106 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                  1,295 mL
   Urine:
                                                                  3,055 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,386 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 344 (316 - 507) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   9.4 g/dL
   157 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   138 mEq/L
   28.3 %
   9.6 K/uL
        [image002.jpg]
                            [**2180-12-5**]  02:26 AM
                            [**2180-12-5**]  04:28 AM
                            [**2180-12-6**]  03:41 AM
   WBC
   10.6
   9.6
   Hct
   28.9
   28.3
   Plt
   310
   294
   Cr
   1.1
   1.1
   TropT
   0.08
   0.08
   TCO2
   25
   Glucose
   100
   157
   Other labs: PT / PTT / INR:18.2/34.2/1.7, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:249/67, Alk Phos / T Bili:233/1.1,
   Albumin:2.8 g/dL, LDH:322 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   79M found unresponsive, intubated for airway protection, found to be
   hypoglycemic with possible pneumonia
   PLAN:
   ====
   Respiratory failure: intubated for airway protection while
   unresponsive.  Change in mental status likely due to
   hypoglycemia/pneumonia. Currently on PSV .  has had failed SBTs,
   thought to be due to CHF.
   - Will put patient back on low dose lasix gtt and will use pressors as
   needed with goal of 1-2L negative today
   - Continue empirically treat for HAP with Vanc/Zosyn/[**Last Name (LF) 1686**], [**First Name3 (LF) 178**] pull
   off if in am if cultures are negative
   - Off propolfol gtt,  boluses prn for sedation
   Mental status: per report the patient hasn't been awake since the event
   and has currently received sedation.  Head CT negative at OSH.  He has
   been off propofol for >24 hours and has had some recent boluses, but w
   ithout underlying liver or kidney disease it is curious why he hasn
   returned to his basline mental status.  It is unclear how long he was
   down with hypoglycemia.
   - Slightly better mental status this am.  Following simple commands
   - Toxic metabolic workup, negative at this point
   - Will repeat head ct today
   Hypoglycemia: as per report from the patient's wife, he has not been
   eating well at the NH.  This in concordance with current lantus dosing
   may have caused his hypoglycemia.  Patient required D5NS gtt to
   maintain normal blood sugars and these are now normal off fluids.
   - continue to monitor and give D5 prn
   CV: Patient with recent hx of CABG/AVR.
   CAD: Enzymes negative.  Continue ASA, hold statin.  Patient does not
   need anticoagulation
   PUMP: EF 30%, will hold antihypertensives at this time.  Will start on
   Lasix gtt and start with pressors as needed. Still hypervolemic on
   exam.
   RHYTHM: admitted in nsr, although alternating between bigeminy and nsr
    UTI: patient with [**First Name3 (LF) 1686**] sensitive Enterococcus, although with
   intermedaiate sensitivity to Vanc.  Hx of VRE.
   - coverage for HAP should cover this organims
   - follow-up urine culture
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2180-12-5**] 08:21 PM
   20 Gauge - [**2180-12-5**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-12-06 08:20:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-6**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-6**] 12:00 AM
   Ciprofloxacin - [**2180-12-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2180-12-5**] 03:51 PM
   Heparin Sodium (Prophylaxis) - [**2180-12-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-6**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 74 (66 - 76) bpm
   BP: 109/39(55) {84/32(47) - 119/56(68)} mmHg
   RR: 26 (24 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,669 mL
                                                                  1,106 mL
   PO:
             TF:
   IVF:
                                                                  1,579 mL
                                                                  1,106 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                  1,425 mL
   Urine:
                                                                  3,055 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,386 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 344 (316 - 373) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 106
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 11.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   294 K/uL
   157 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   138 mEq/L
   28.3 %
   9.6 K/uL
        [image002.jpg]
                            [**2180-12-5**]  02:26 AM
                            [**2180-12-5**]  04:28 AM
                            [**2180-12-6**]  03:41 AM
   WBC
   10.6
   9.6
   Hct
   28.9
   28.3
   Plt
   310
   294
   Cr
   1.1
   1.1
   TropT
   0.08
   0.08
   TCO2
   25
   Glucose
   100
   157
   Other labs: PT / PTT / INR:18.2/34.2/1.7, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:249/67, Alk Phos / T Bili:233/1.1,
   Albumin:2.8 g/dL, LDH:322 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   1) Altered mental status:
   [**Month (only) 60**] be due previous sedatives that he has received, underlying
   infection, other toxic-metabolic process.
   Check TSH, B12, RPR;  rpt head CT if does not improve off sedation.
   2) Hypoglycemia:
   Etiology unclear, possible poor intake with long-acting insulin.
   Evaluate for hypothyroidism.
   3) Pneumonia:
   Radiographically may have an infiltrate though there are no clinical
   signs of infection.
   Would treat for HCAP, check sputum culture.
   4) CHF:
   Diuresis with lasix gtt.
   The pleural effusions are consistent with CHF given b/l nature and
   presence of interstitial edema.
   5) Respiratory Failure:
   [**Month (only) 60**] be a combination of CHF and pneumonia.
   Will attempt diurese and retry SBT.
   6) Elevated LFTs:
   There is no evidence of obstruction on CT chest--f/u final read.
   Likely for congestive hepatopathy.
   Repeat LFTs later today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2180-12-5**] 08:21 PM
   20 Gauge - [**2180-12-5**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2180-12-07 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. left IJ CVL placed
   2. resedated with propofol overnight
   3. CE negative; echo without significant changes EF 30-35% new AR seen
   4. Continuing lasix gtt; levophed started but inc ectopy seen, changed
   to neo, still having occ bigeminy
   5. Central venous Sp02 73%
   6. Resent endotracheal sputum culture given purlulent secretions seen
   7. continued on vancomycin, zosyn and [** **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2180-12-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-7**] 12:00 AM
   Ciprofloxacin - [**2180-12-7**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2180-12-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2180-12-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-7**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 58 (56 - 75) bpm
   BP: 112/45(62) {86/34(50) - 135/65(82)} mmHg
   RR: 18 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 16 (11 - 16)mmHg
   Total In:
                                                                  1,875 mL
                                                                    458 mL
   PO:
   TF:
   IVF:
                                                                  1,875 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    890 mL
   Urine:
                                                                  2,000 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (354 - 495) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.46/41/121/28/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   367 K/uL
   10.1 g/dL
   132 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   30.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2180-12-5**]  02:26 AM
                            [**2180-12-5**]  04:28 AM
                            [**2180-12-6**]  03:41 AM
                            [**2180-12-6**]  12:40 PM
                            [**2180-12-6**]  09:48 PM
                            [**2180-12-7**]  04:16 AM
   WBC
   10.6
   9.6
   10.4
   Hct
   28.9
   28.3
   30.5
   Plt
   [**Telephone/Fax (3) 6246**]
   Cr
   1.1
   1.1
   0.9
   0.9
   TropT
   0.08
   0.08
   TCO2
   25
   30
   Glucose
   100
   157
   148
   132
   Other labs: PT / PTT / INR:18.2/34.2/1.7, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:186/27, Alk Phos / T Bili:216/1.1,
   Differential-Neuts:76.1 %, Lymph:13.9 %, Mono:6.2 %, Eos:3.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:278 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   79M found unresponsive, intubated for airway protection, found to be
   hypoglycemic with possible pneumonia
   PLAN:
   ====
   Respiratory failure: intubated for airway protection while
   unresponsive.  Change in mental status likely due to
   hypoglycemia/pneumonia. Currently on PSV .  has had failed SBTs,
   thought to be due to CHF.
   - Will put patient back on low dose lasix gtt and will use pressors as
   needed with goal of 1-2L negative today
   - Continue empirically treat for HAP with Vanc/Zosyn/[**Last Name (LF) 1686**], [**First Name3 (LF) 178**] pull
   off if in am if cultures are negative
   - Off propolfol gtt,  boluses prn for sedation
   - Will put on SBT in am with anticipation of extubation on [**2180-12-8**]
   Mental status: per report the patient hasn't been awake since the event
   and has currently received sedation.  Head CT negative at OSH.  He has
   been off propofol for >24 hours and has had some recent boluses, but w
   ithout underlying liver or kidney disease it is curious why he hasn
   returned to his basline mental status.  It is unclear how long he was
   down with hypoglycemia.
   - Slightly better mental status this am.  Following simple commands
   - Toxic metabolic workup, negative at this point
   - Repeat Head CT negative
   Hypoglycemia: likely due to poor PO intake without changes in insulin
   regimen.  Glucose levels have been WNL in the absence of insulin,
   although patient has not been getting nutrition.
   - continue to monitor a
   CV: Patient with recent hx of CABG/AVR.
   CAD: Enzymes negative.  Continue ASA, hold statin.  Patient does not
   need anticoagulation
   PUMP: EF 30%, will hold antihypertensives at this time. Continue Lasix
   gtt with pressors as needed. Still hypervolemic on exam.  Goal I/O 1-2L
   negative today
   RHYTHM: admitted in nsr, although alternating between bigeminy and nsr
    UTI: patient with [**Date Range 1686**] sensitive Enterococcus, although with
   intermedaiate sensitivity to Vanc.  Hx of VRE.
   - coverage for HAP should cover this organims
   - follow-up urine culture
   ICU Care
   Nutrition: Will put in TF consult today
   Glycemic Control:
   Lines:
   22 Gauge - [**2180-12-5**] 08:21 PM
   Multi Lumen - [**2180-12-6**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2180-12-07 08:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  Respiratory Failure, hypoglycemia
   24 Hour Events:
   - Left IJ placed
   - Echo with EF 35% (no change from previous)
   - Lasix gtt overnight, increased Neo (bigeminy with NE) with increase
   in UOP
   - Sputum clx sent
   History obtained from housetaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2180-12-7**] 02:00 AM
   Vancomycin - [**2180-12-7**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-7**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2180-12-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2180-12-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-7**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 58 (56 - 75) bpm
   BP: 112/45(62) {86/34(50) - 135/65(82)} mmHg
   RR: 18 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 299 (11 - 299)mmHg
   Total In:
                                                                  1,875 mL
                                                                    839 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,875 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                  1,340 mL
   Urine:
                                                                  2,000 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 485 (354 - 495) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.46/41/121/28/5
   Ve: 10.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress increasingly interactive.
   Responded to verbal commands
   Cardiovascular:no MRG
   Peripheral Vascular: trace edema in the lower ext
   Respiratory / Chest: (Breath Sounds: Diminished: at bases)
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): x0 , Movement: moving all extremities
   Labs / Radiology
   10.1 g/dL
   367 K/uL
   132 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   30.5 %
   10.4 K/uL
        [image002.jpg]
                            [**2180-12-5**]  02:26 AM
                            [**2180-12-5**]  04:28 AM
                            [**2180-12-6**]  03:41 AM
                            [**2180-12-6**]  12:40 PM
                            [**2180-12-6**]  09:48 PM
                            [**2180-12-7**]  04:16 AM
   WBC
   10.6
   9.6
   10.4
   Hct
   28.9
   28.3
   30.5
   Plt
   [**Telephone/Fax (3) 6246**]
   Cr
   1.1
   1.1
   0.9
   0.9
   TropT
   0.08
   0.08
   TCO2
   25
   30
   Glucose
   100
   157
   148
   132
   Other labs: PT / PTT / INR:18.2/34.2/1.7, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:186/27, Alk Phos / T Bili:216/1.1,
   Differential-Neuts:76.1 %, Lymph:13.9 %, Mono:6.2 %, Eos:3.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:278 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Microbiology: Gram positive bacteria Urine ([**12-5**])
   Sputum [**12-6**]: >25 PMNs no org yet
   Assessment and Plan
   79M with CAD s/p recent admission persistent chest pain, ruling in for
   NSTEMI, 3VD on cath and now s/p in CABG w/AVR on [**2180-10-5**], DMII found
   unresponsive at NH with low blood sugar. Slow to clear mental status
   with concern also for asp PNA on broad spectrum Abx.
   Respiratory failure: possible HAP + volume overload. Goal to net neg
   out 1L with Neo to augment CO
   - Abx: Vanc, Zosyn and Cipro ([**12-5**] is day 1). Follow up clx data from
   sputum. Seems that sputum has decreased. Will follow up the CXR from
   today.  If secretions worsen, may need bronchoscopy.
   - Goal SBT [**6-12**] trial  tomorrow.
   - concentrate fluids to minimize intake
   Mental status: improved today, following commands
   - min propofol for sedation
   Hypoglycemia: resolved
   UTI: enterococcal UTI [**12-2**] ([**12-12**] last day of ciprofloxacin)
   CHF: EF 30%, lasix gtt with goal out 1-2 L today
   - some episodes of bigeminy. Optimize Mg and K with goal K>4 and Mg >2
   - hold beta blocker and lisinopril for now. cont ASA
   other issues per resident note.
   ICU Care
   Nutrition:
   Comments: Tube feeds start today
   Glycemic Control:  Comments: not required at presnt
   Lines:
   22 Gauge - [**2180-12-5**] 08:21 PM
   Multi Lumen - [**2180-12-6**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  updated his son [**Name (NI) **] regarding plans for care
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 minutes

2180-12-08 07:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Acute respiratory failure, CHF
   24 Hour Events:
 ARTERIAL LINE - START [**2180-12-7**] 01:00 PM
   SBT this AM with RSBI of 95
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-7**] 08:00 AM
   Vancomycin - [**2180-12-7**] 08:23 PM
   Piperacillin - [**2180-12-8**] 12:22 AM
   Ciprofloxacin - [**2180-12-8**] 02:04 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-12-8**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-8**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 68 (55 - 71) bpm
   BP: 111/45(66) {99/33(53) - 134/53(80)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (4 - 24)mmHg
   Total In:
                                                                  2,314 mL
                                                                    499 mL
   PO:
   TF:
                                                                    168 mL
                                                                      2 mL
   IVF:
                                                                  1,946 mL
                                                                    497 mL
   Blood products:
   Total out:
                                                                  4,705 mL
                                                                  1,440 mL
   Urine:
                                                                  4,705 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,391 mL
                                                                   -941 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (373 - 485) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.48/40/118/30/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Well nourished, intubated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases bilateral), (Breath Sounds: Diminished: anterior and inferior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): intubated, Movement: Purposeful, Sedated, Tone:
   Normal
   Labs / Radiology
   10.2 g/dL
   376 K/uL
   131 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.4 mEq/L
   8 mg/dL
   103 mEq/L
   141 mEq/L
   31.7 %
   10.7 K/uL
        [image002.jpg]
                            [**2180-12-5**]  04:28 AM
                            [**2180-12-6**]  03:41 AM
                            [**2180-12-6**]  12:40 PM
                            [**2180-12-6**]  09:48 PM
                            [**2180-12-7**]  04:16 AM
                            [**2180-12-7**]  02:32 PM
                            [**2180-12-7**]  06:00 PM
                            [**2180-12-7**]  06:52 PM
                            [**2180-12-7**]  10:55 PM
                            [**2180-12-8**]  04:09 AM
   WBC
   10.6
   9.6
   10.4
   10.7
   Hct
   28.9
   28.3
   30.5
   31.7
   Plt
   [**Telephone/Fax (3) 6269**]76
   Cr
   1.1
   1.1
   0.9
   0.9
   0.9
   0.9
   TropT
   0.08
   0.08
   TCO2
   30
   28
   31
   Glucose
   100
   157
   148
   132
   132
   139
   131
   Other labs: PT / PTT / INR:15.4/40.7/1.4, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:130/15, Alk Phos / T Bili:188/1.1,
   Differential-Neuts:71.4 %, Lymph:16.3 %, Mono:6.9 %, Eos:5.3 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:262 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
Sputm [**12-6**]  GRAM STAIN (Final [**2180-12-6**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   Assessment and Plan
   79M with CAD s/p recent admission persistent chest pain, ruling in for
   NSTEMI, 3VD on cath and now s/p in CABG w/AVR on [**2180-10-5**], DMII found
   unresponsive at NH with low blood sugar. Slow to clear mental status
   with concern also for asp PNA on broad spectrum Abx.
   >Respiratory failure: possible HAP + volume overload. Goal to net neg
   out 1L with Neo to augment CO
   - Abx: Vanc, Zosyn and Cipro ([**12-5**] is day 1). Follow up clx data from
   sputum is negative but will cont to treat for a 7 days course. Seems
   that sputum has decreased. SBT is borderline. Will stop propofol and
   reassess.
   - Hopeful for extubation today with likely extubation to BiPAP
   He will help with secretion clearance post extubation
   - Goal net neg 1L
   >Mental status: improved today, following commands
   - min propofol for sedation
   >Hypoglycemia: resolved
   >UTI: enterococcal UTI [**12-2**] ([**12-12**] last day of ciprofloxacin)
   >CHF: EF 30%, lasix gtt with goal out 1 L today
   - some episodes of bigeminy. Optimize Mg and K with goal K>4 and Mg >2
   - hold beta blocker and lisinopril for now. cont ASA
   other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-12-6**] 05:00 PM
   Arterial Line - [**2180-12-7**] 01:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:zantac
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2180-12-08 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Culture data NGTD
   2.       Fluid balance -2.3L
   3.       R radial A-line placed
   4.       6PM ABG:7.47/37/167  dropped fiO2 from 50% to 40%
   5.       11 pm ABG: 7.48/40/118 (FiO2 40%, PEEP 5)
 no changes made
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-7**] 08:00 AM
   Vancomycin - [**2180-12-7**] 08:23 PM
   Piperacillin - [**2180-12-8**] 12:22 AM
   Ciprofloxacin - [**2180-12-8**] 02:04 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-12-8**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2180-12-8**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 68 (55 - 71) bpm
   BP: 111/45(66) {99/33(53) - 134/53(80)} mmHg
   RR: 22 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 12 (4 - 24)mmHg
   Total In:
                                                                  2,314 mL
                                                                    504 mL
   PO:
   TF:
                                                                    168 mL
                                                                      2 mL
   IVF:
                                                                  1,946 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  4,705 mL
                                                                  1,440 mL
   Urine:
                                                                  4,705 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,391 mL
                                                                   -936 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 493 (373 - 493) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.48/40/118/30/6
   Ve: 7.8 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   376 K/uL
   10.2 g/dL
   131 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.4 mEq/L
   8 mg/dL
   103 mEq/L
   141 mEq/L
   31.7 %
   10.7 K/uL
        [image002.jpg]
                            [**2180-12-5**]  04:28 AM
                            [**2180-12-6**]  03:41 AM
                            [**2180-12-6**]  12:40 PM
                            [**2180-12-6**]  09:48 PM
                            [**2180-12-7**]  04:16 AM
                            [**2180-12-7**]  02:32 PM
                            [**2180-12-7**]  06:00 PM
                            [**2180-12-7**]  06:52 PM
                            [**2180-12-7**]  10:55 PM
                            [**2180-12-8**]  04:09 AM
   WBC
   10.6
   9.6
   10.4
   10.7
   Hct
   28.9
   28.3
   30.5
   31.7
   Plt
   [**Telephone/Fax (3) 6269**]76
   Cr
   1.1
   1.1
   0.9
   0.9
   0.9
   0.9
   TropT
   0.08
   0.08
   TCO2
   30
   28
   31
   Glucose
   100
   157
   148
   132
   132
   139
   131
   Other labs: PT / PTT / INR:15.4/40.7/1.4, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:130/15, Alk Phos / T Bili:188/1.1,
   Differential-Neuts:71.4 %, Lymph:16.3 %, Mono:6.9 %, Eos:5.3 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:262 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Imaging:
   CXR
   Microbiology: [**2180-12-6**]  SPUTUM  PMN no org
   [**2180-12-5**]  SPUTUM  PMN no org
   [**2180-12-5**]  URINE  Alpha Strep
   [**2180-12-5**]  URINE  Leg neg
   [**2180-12-5**]  SEROLOGY/BLOOD  Final
   [**2180-12-4**]  BLOOD CULTURE  Pending
   Assessment and Plan
   79M found unresponsive, intubated for airway protection, found to be
   hypoglycemic with possible pneumonia
   PLAN:
   ====
   Respiratory failure: intubated for airway protection while
   unresponsive.  Change in mental status likely due to
   hypoglycemia/pneumonia. Currently on PSV .  has had failed SBTs,
   thought to be due to CHF.
   - SBT today
   - Consider aspiration; cultures NGTD, d/c abx
   Acute on Chronic Systolic CHF
   - Diuresis with lasix
   Mental status: follows simple commands off sedation
   Hypoglycemia: likely due to poor PO intake without changes in insulin
   regimen.  Glucose levels have been WNL in the absence of insulin,
   although patient has not been getting nutrition.
   - continue to monitor
   CV: Patient with recent hx of CABG/AVR.
   CAD: Enzymes negative.  Continue ASA, hold statin.  Patient does not
   need anticoagulation
   PUMP: EF 30%, will hold antihypertensives at this time. Continue Lasix
   gtt with pressors as needed. Still aiming for diuresis
   RHYTHM: admitted in nsr, although alternating between bigeminy and nsr
    UTI: patient with Cipro sensitive Enterococcus, although with
   intermedaiate sensitivity to Vanc.  Hx of VRE.
   - coverage for HAP should cover this organims
   - follow-up urine culture
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-12-6**] 05:00 PM
   Arterial Line - [**2180-12-7**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2180-12-09 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2180-12-8**] 12:00 PM
 ARTERIAL LINE - STOP [**2180-12-9**] 06:30 AM
   Yesterday's events:
   1.extubated
   2.vanc/zosyn continued for HAP
   3.1800 cc negative
   4.confused, agitated overnight, received zyprexa 5mg PO X2.
   5.dc'd a-line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-7**] 08:00 AM
   Vancomycin - [**2180-12-8**] 08:48 PM
   Piperacillin - [**2180-12-9**] 12:00 AM
   Ciprofloxacin - [**2180-12-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-12-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-12-9**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 78 (69 - 92) bpm
   BP: 110/45(61) {110/45(61) - 110/45(61)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (1 - 322)mmHg
   Total In:
                                                                  1,655 mL
                                                                    341 mL
   PO:
   TF:
                                                                      2 mL
   IVF:
                                                                  1,653 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                    395 mL
   Urine:
                                                                  3,530 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,875 mL
                                                                    -54 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 493 (493 - 493) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.48/42/72/28/6
   Ve: 7.8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   10.8 g/dL
   110 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   6 mg/dL
   106 mEq/L
   143 mEq/L
   31.9 %
   8.3 K/uL
        [image002.jpg]
                            [**2180-12-7**]  02:32 PM
                            [**2180-12-7**]  06:00 PM
                            [**2180-12-7**]  06:52 PM
                            [**2180-12-7**]  10:55 PM
                            [**2180-12-8**]  04:09 AM
                            [**2180-12-8**]  09:12 AM
                            [**2180-12-8**]  11:49 AM
                            [**2180-12-8**]  02:38 PM
                            [**2180-12-8**]  03:38 PM
                             [**2180-12-9**]  04:30 AM
   WBC
   10.7
   8.3
   Hct
   31.7
   31.9
   Plt
   376
   299
   Cr
   0.9
   0.9
   0.9
   0.9
   TCO2
   28
   31
   33
   30
   32
   Glucose
   132
   139
   131
   128
   110
   Other labs: PT / PTT / INR:15.0/36.9/1.3, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:130/15, Alk Phos / T Bili:188/1.1,
   Differential-Neuts:71.4 %, Lymph:16.3 %, Mono:6.9 %, Eos:5.3 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:262 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   79M found unresponsive, intubated for airway protection, found to be
   hypoglycemic with possible pneumonia
   Respiratory failure:   Multifactorial with acute on chronic heart
   failure and likely pneumonia (hospital acquired vs. aspiration)
   - Legionella cx negative, sputum culture NGTD
   - s/p aggressive diuresis on lasix gtt
   - Now extubated, talking, no complaints
   - Resume home Lasix 30 mg [**Hospital1 **]
   - Goal I/O: slightly negative
   - Possible aspiration event; continuing Vanc & Zosyn as empiric
   treatment for HAP (currently day 5 of 7)
   Agitation:
   - TSH, B12, folate, RPR all wnl
   - Zyprexa 2.5 mg [**Hospital1 **] + PRN
   - clarify baseline mental status with family
   Hypoglycemia: Hypoglycemic episode occurred on regimen of Lantus 20
   units qHS, metformin, RISS.
   - No further hypoglycemic episodes since admission, glucoses in low
   100
   - Currently no insulin requirement
   - Continue QID fingersticks
   - check HbA1c
   CV: Patient is s/p recent CABG/AVR [**9-15**] with bioprosthetic valve.
   [a] Vessels: Enzymes negative.  Continue ASA.
   - Resume Pravastatin 80 mg qHS
   [b] Pump: EF 30%, will hold antihypertensives at this time.
   - Resume home Lasix 30 mg [**Hospital1 **]
   - Goal I/O: slightly negative
   - Resume beta-blocker once BP will tolerate
   [c] Rhythm: admitted in NSR, although alternating between bigeminy and
   NSR
   [d] Valves: Patient is s/p aortic bioprosthetic valve replacement, does
   not require anticoagulation.
   UTI: Patient was being treated with ciprofloxacin for e. coli UTI,
   start date [**11-28**].  Completed course of ciprofloxacin.
   ICU Care
   Nutrition:  Cardiac, [**Doctor First Name 470**] diet
   Glycemic Control:  QID fingersticks
   Lines:
   Multi Lumen - [**2180-12-6**] 05:00 PM
   - Will attempt PIV
s today, with plan to d/c CVL
   Prophylaxis:
   DVT:   Heparin SC
   Stress ulcer:  not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Call out to medicine floor team.

2180-12-09 09:29:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Unresponsive, hypoglycemic
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 y.o. M found unresponsive at [**Hospital1 169**] with FS 39, intubated in the
   field.  Transferred to MICU for respiratory failure, now s/p extubation
   24 Hour Events:
   - extubated
 INVASIVE VENTILATION - STOP [**2180-12-8**] 12:00 PM
 ARTERIAL LINE - STOP [**2180-12-9**] 06:30 AM
   O/N - agitated, required Zyprexa x 2 doses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2180-12-7**] 08:00 AM
   Ciprofloxacin - [**2180-12-9**] 02:00 AM
   Vancomycin - [**2180-12-9**] 08:00 AM
   Piperacillin - [**2180-12-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-12-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2180-12-9**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 80 (70 - 92) bpm
   BP: 110/45(61) {110/45(61) - 110/45(61)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 10 (3 - 322)mmHg
   Total In:
                                                                  1,655 mL
                                                                    761 mL
   PO:
                                                                    120 mL
   TF:
                                                                      2 mL
   IVF:
                                                                  1,653 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                    420 mL
   Urine:
                                                                  3,530 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,875 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.48/42/72/28/6
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Bronchial: ), well healed midline scar
   Abdominal: Soft, Non-tender
   Extremities: No edema B/L
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, Movement: Purposeful, Tone: Not assessed,
   Confused, but interactive
   Labs / Radiology
   10.8 g/dL
   299 K/uL
   110 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   6 mg/dL
   106 mEq/L
   143 mEq/L
   31.9 %
   8.3 K/uL
        [image002.jpg]
                            [**2180-12-7**]  02:32 PM
                            [**2180-12-7**]  06:00 PM
                            [**2180-12-7**]  06:52 PM
                            [**2180-12-7**]  10:55 PM
                            [**2180-12-8**]  04:09 AM
                            [**2180-12-8**]  09:12 AM
                            [**2180-12-8**]  11:49 AM
                            [**2180-12-8**]  02:38 PM
                            [**2180-12-8**]  03:38 PM
                             [**2180-12-9**]  04:30 AM
   WBC
   10.7
   8.3
   Hct
   31.7
   31.9
   Plt
   376
   299
   Cr
   0.9
   0.9
   0.9
   0.9
   TCO2
   28
   31
   33
   30
   32
   Glucose
   132
   139
   131
   128
   110
   Other labs: PT / PTT / INR:15.0/36.9/1.3, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:130/15, Alk Phos / T Bili:188/1.1,
   Differential-Neuts:71.4 %, Lymph:16.3 %, Mono:6.9 %, Eos:5.3 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:262 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR - LIJ, B/L pleural effusions, cardiomegaly, B/L patchy
   infiltrates
   Microbiology: None new
   Assessment and Plan
   79M with CAD s/p recent admission persistent chest pain, ruling in for
   NSTEMI, 3VD on cath and now s/p in CABG w/AVR (bioprosthetic) on
   [**2180-10-5**], DMII found unresponsive [**Hospital1 169**] in the setting of hypoglycemia.
   Slowly to clearing mental status with concern for asp PNA on broad
   spectrum Abx.
   # PNA
 extubated, doing well on RA, culture data unrevealing
   - d/c cipro
   - complete vanco/zosyn (today day 5 of 7)
 HYPOGLYCEMIA - resolved, no recurrence
   - tolerating PO diet, following FS
   - recalculate insulin requirement over next 24 hours
   - in the setting of depressed LVEF at baseline, would NOT favor
   resuming his metformin.
 CHF
 small B/L pleural effusions on CXR
   - resume home PO lasix dose
   - goal TBB slightly negative today
   Cardiology ( CHF ) consult on floor
 ALTERED MENTAL STATUS ( DELIRIUM)
 agitated overnight, current exam
   non-focal, interactive and redirectable
   - Zyprexa 2.5 [**Hospital1 **] plus prn for agitation
   ICU Care
   Nutrition:
   Comments: tolerating PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-12-6**] 05:00 PM
   Comments: Assess for PIV, remove CVL
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes